US06953793B2
C. 1-{3-(4-Chloro-phenyl)-1-[3-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-2-hydroxy-propyl]-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl}-ethanone.
To a stirred solution of 3.20 g (9.64 mmol) of 1-[3-(4-chloro-phenyl)-1-oxiranylmethyl-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone and 2.07 g (14.5 mmol) of 1,4-dioxa-8-azaspiro[4.5]decane in CH2Cl2 (65 mL) was added 1.79 g (2.89 mmol) of Yb(OTf)3.H2O. The reaction was stirred overnight and was then directly purified by flash chromatography (silica, 0-5% MeOH/CH2Cl2) to afford 3.70 g (81%) of the title compound. TLC (silica, 5% MeOH/CH2Cl2): Rf=0.35. MS (electrospray), m/z calculated for C24H31ClN4O4 [M++H], 475.20, observed 475.1.

reactant | 1-[3-(4-chloro-phenyl)-1-oxiranylmethyl-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone | 9.64 mmol, 3.20 g | ClC1=CC=C(C=C1)C1=NN(C2=C1CN(CC2)C(C)=O)CC2OC2 | C17H18ClN3O2
reactant | 1,4-dioxa-8-azaspiro[4.5]decane | 14.5 mmol, 2.07 g | O1CCOC12CCNCC2 | C7H13NO2
reactant | Yb(OTf)3.H2O | 2.89 mmol, 1.79 g | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Yb+3].O
solvent | CH2Cl2 | 65 mL | C(Cl)Cl | CH2Cl2
product | 1-{3-(4-Chloro-phenyl)-1-[3-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-2-hydroxy-propyl]-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl}-ethanone | 3.70 g, 81% | ClC1=CC=C(C=C1)C1=NN(C2=C1CN(CC2)C(C)=O)CC(CN2CCC1(OCCO1)CC2)O | C24H31ClN4O4
